US07612075B2
B. 5-bromomethyl-2-methylthiopyrimidine
5-hydroxymethyl-2-methylthiopyrimidine (0.1 g, 0.61 mmol), triphenylphosphine (0.45 g, 1.7 mmol) and carbon tetrabromide (0.28 g, 0.85 mmol) are stirred in benzene (5 mL) for 24 h. The mixture is evaporated and the residue is purified by flash chromatography (silica gel, 4:1 hexanes/ethyl acetate) to provide the intermediate title compound as a white solid (0.08 g, 61%). MS (ES), 219/221 [M+H]+ (Br).

reactant | 5-hydroxymethyl-2-methylthiopyrimidine | 0.61 mmol, 0.1 g | OCC=1C=NC(=NC1)SC | C6H8N2OS
reactant | triphenylphosphine | 1.7 mmol, 0.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.85 mmol, 0.28 g | C(Br)(Br)(Br)Br | CBr4
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | 5-bromomethyl-2-methylthiopyrimidine | 0.08 g, 61% | BrCC=1C=NC(=NC1)SC | C6H7BrN2S
